US04143047
2-(N-Ethyl-acetamido)-4-methyloxazole
N-Ethyl-acetamide (1.18 g, 0.0135 m) in dry dimethylformamide (10 ml) was stirred at room temperature under nitrogen during the portionwise addition of 50% sodium hydride/oil dispersion (0.65 g, 0.0135 m). After the addition, the mixture was warmed to 50° C. and then 4-methyl-2-phenylmethylsulphinyloxazole (3.0 g, 0.0135 m) was added. The mixture was stirred at 50° C. for 5 hours and then hydrolysed with water. The solvent was evaporated in vacuo and the residue extracted with diethyl ether. Column chromatography on silica using ether gave a pale yellow oil which gave the title product as a colourless oil on distillation, b.p. 50°-51° C./0.05 mm.

reactant | N-Ethyl-acetamide | 1.18 g | C(C)NC(C)=O | C4H9NO
reactant | sodium hydride | [H-].[Na+]
reactant | 4-methyl-2-phenylmethylsulphinyloxazole | 3.0 g | CC=1N=C(OC1)S(=O)CC1=CC=CC=C1 | C11H11NO2S
reactant | water | O | H2O
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 2-(N-Ethyl-acetamido)-4-methyloxazole | C(C)N(C(C)=O)C=1OC=C(N1)C | C8H12N2O2
